US08563575B2
A mixture of 4-methylpyridin-3-amine (0.62 g), 12N hydrogen chloride (3.8 mL) and 30% hydrogen peroxide (0.75 mL) was stirred at 0° C. to room temperature for 1 h. The mixture was neutralized with K2CO3, and the mixture was extracted with AcOEt. The organic layer was dried over MgSO4, and concentrated in vacuo to give 2-chloro-4-methylpyridin-3-amine (0.75 g) as an orange solid.

reactant | 4-methylpyridin-3-amine | 0.62 g | CC1=C(C=NC=C1)N | C6H8N2
reactant | hydrogen chloride | 12N, 3.8 mL | Cl | ClH
reactant | hydrogen peroxide | 0.75 mL | OO | H2O2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 2-chloro-4-methylpyridin-3-amine | 0.75 g | ClC1=NC=CC(=C1N)C | C6H7ClN2
